US05607934
1.03 g of dicyclohexylcarbodiimide was added to 30 ml of a solution of 1.83 g of ethyl N-(N-benzyloxyleucyl)aminomalonate, 0.58 g of N-hydroxysuccinimide and 1.3 ml of (3-methoxybenzyl)amine in anhydrous dioxane. The mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered to remove-the insoluble materials. The filtrate was diluted with 100 ml of ethyl acetate. The resulting solution was washed with 1N hydrochloric acid, an aqueous solution saturated with sodium hydrogen carbonate and an aqueous solution saturated with sodium chloride in this order, then dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent. 1.49 g of the resulting yellow oily substance was purified by silica gel column chromatography (eluant: ethyl acetate/n-hexane=1/2)to obtain 0.96 g of ethyl N-(N-benzyloxyleucyl)-α-[N-(3-methoxybenzyl)carbamoyl]glycinate as a colorless oily substance.

reactant | dicyclohexylcarbodiimide | 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl N-(N-benzyloxyleucyl)aminomalonate | 1.83 g | C(C1=CC=CC=C1)ON[C@@H](CC(C)C)C(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | N-hydroxysuccinimide | 0.58 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | (3-methoxybenzyl)amine | 1.3 ml | COC=1C=C(CN)C=CC1 | C8H11NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl N-(N-benzyloxyleucyl)-α-[N-(3-methoxybenzyl)carbamoyl]glycinate | 0.96 g | C(C1=CC=CC=C1)ON[C@@H](CC(C)C)C(=O)NC(C(=O)OCC)C(NCC1=CC(=CC=C1)OC)=O | C26H35N3O6
